US08455475B2
(R)-methyl 3-(2-chloro-N-(2,2,2-trifluoroethyl)benzamido)-2,3-dihydro-1H-indene-5-carboxylate (B-41)
To a cooled (0° C.) solution of (R)-methyl 3-(2,2,2-trifluoroethylamino)-2,3-dihydro-1H-indene-5-carboxylate (A-18) (870 mg, 3.18 mmol, 1.0 eq.) in methylene chloride (12 ml) was added TEA (1.1 ml, 7.95 mmol, 2.5 eq.) and the reaction mixture was allowed to stir for 15 min. 2-Chlorobenzoyl chloride (0.44 ml, 3.50 mmol, 1.1 eq) was added to the reaction mixture and it was stirred at RT for 1 h. After completion of the reaction (monitored by TLC), the mixture was diluted with methylene chloride (50 ml) and the organic layer was washed with water (20 ml) and brine (20 ml), and dried over anhydrous Na2SO4. The solvent was evaporated to afford the crude product which was purified by column chromatography (silica gel; 7% ethyl acetate/hexanes) to yield the desired compounds as a colourless gummy solid. Yield: 85% (1.1 g, 2.67 mmol).

reactant | (R)-methyl 3-(2,2,2-trifluoroethylamino)-2,3-dihydro-1H-indene-5-carboxylate | 3.18 mmol, 870 mg, 1.0 eq. | FC(CN[C@@H]1CCC2=CC=C(C=C12)C(=O)OC)(F)F | C13H14F3NO2
reactant | 2-Chlorobenzoyl chloride | 3.50 mmol, 0.44 ml, 1.1 eq | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (R)-methyl 3-(2-chloro-N-(2,2,2-trifluoroethyl)benzamido)-2,3-dihydro-1H-indene-5-carboxylate | Yield: 85% | ClC1=C(C(=O)N(CC(F)(F)F)[C@@H]2CCC3=CC=C(C=C23)C(=O)OC)C=CC=C1 | C20H17ClF3NO3
